Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[N+:7]#[C:6][C:5]#[C-:4])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],54.28352295722089
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1]1([H:8])[C:2](=[O:3])[C@@:5]2([C:4]([H:9])([H:10])[H:12])[C@:6]1([H:11])[N:7]2[H:13],82.67044040929791
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[C:4]1([H:9])([H:10])[C:5]([H:8])([H:11])[O:6]1.[N:1](=[C:2]=[O:3])[H:7],65.843152366109
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4](=[C:5]=[N:6][H:9])[H:10])([H:7])[H:8],76.3894822873565
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])=[O:6])([H:7])([H:8])[H:9].[H:10][H:14]>>[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9],76.56099587722703
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1]1([H:8])[C@@:2]2([O:3][C:4](=[O:5])[H:9])[C@:6]1([H:10])[O:7]2,76.14808602157709
[C:1]([C:2]#[N:3])([H:8])([H:9])[H:10].[O:4]1[C:5](=[O:7])[O:6]1>>[C:1]([c:2]1[n:3][o:4][c:5](=[O:6])[o:7]1)([H:8])([H:9])[H:10],4.307428754959503
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])[C:6]([H:8])([H:19])[O:7]1>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],80.86465654005393
[C-:4]#[O+:5].[C:1](=[C:2]([O:3][H:10])[H:9])([H:6])[H:7].[H:8][H:11]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],33.2262570764671
[C+:1](=[C:2]=[C-:3]/[C:4](=[C:5](\[C:6](=[O:7])[H:11])[H:10])[H:9])[H:8]>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],14.637582406421203
[N:1]1(/[C:4](=[N:5]/[H:9])[H:8])[C:2]#[C:3]1.[N:6]#[N:7]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,28.369138379228914
[C:1]([C:2]([C:5]([C:3]([C:4]([H:12])([H:13])[H:14])=[O:6])([H:15])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][H:18]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],81.04630744824944
[N:1]([C:2]#[N+:7][C-:5](/[C:3](=[N:4]/[H:11])[H:10])[O:6][H:12])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9],30.663596528668997
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[C:2](=[O:3])=[N:4][C:5](=[O:6])[H:10].[N:1]([H:7])([H:8])[H:9],42.7395354061382
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C@:4]1([O:5][H:9])[C:6]#[C:7][H:13],89.17676162779259
[H:11][H:12].[O:1]([C:2](/[C:3](=[N:4]\[C:5](=[O:6])[H:13])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],64.15957699128442
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]1=[C:5]=[N+:6]([H:11])[N-:4]1)[H:10])([H:7])([H:8])[H:9],127.849580527642
[C:1]([C@@:2]1([O:5][H:12])[O:3][O:7][C:6]([H:13])=[C:4]1[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],14.184995408717697
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[H:12][H:14].[N:1]([C@@:2](/[C:3](=[C:4](\[O:5][H:15])[H:13])[H:11])([C:6]#[N:7])[H:10])([H:8])[H:9],102.429454274853
[N:1]1([H:8])[C:2](=[O+:3][C-:4]([H:9])[H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],13.267740023270207
[C:1]([C:2]1=[C:7]([H:17])[C:6]([H:15])=[C:5]([H:14])[C:4]1([H:12])[H:13])([H:8])([H:9])[H:10].[O:3]([H:11])[H:16]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],48.074370868425454
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:12])[C:4]([C:7]([H:14])([H:15])[H:16])=[N:5]1)([H:8])([H:9])[H:10].[O:6]([H:11])[H:13],53.280812359219205
[C:1](=[C:2]([H:9])[H:10])([C:3]1=[C:4]([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:7].[H:8][H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,78.27140607547909
[C:1]12=[C:2]([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]1=[C:6]2[H:12]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],47.34831562711501
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@:4]1([H:12])[C:3]([H:11])=[C:6]=[C:7]([H:13])[O:5]1)([H:9])[H:10])[H:8],63.8469912908269
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O+:5]=[C-:4][C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],46.62746835445471
